data/mechanisms/records/IMS4-EQ4.37.json
{"mechanism_id": "IMS4-EQ4.37", "species": [{"species_id": "hexanol_molecular_ion_O_ionized", "mapped_smiles": "[CH3:1][CH2:2][CH:3]([1H:8])[CH2:4][CH2:5][CH2:6][OH+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_C_radical_oxonium", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2:4][CH2:5][CH2:6][OH+:7][1H:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylcyclobutane_neutral", "mapped_smiles": "[CH3:1][CH2:2][CH:3]1[CH2:4][CH2:5][CH2:6]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "water_radical_cation", "mapped_smiles": "[OH+:7][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanol_molecular_ion_O_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_C_radical_oxonium"]}, {"state_id": "state_products", "species_ids": ["ethylcyclobutane_neutral", "water_radical_cation"]}], "steps": [{"step_id": "step_rH_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_displacement_charge_retention", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 76, "equation": "4.37", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (Hydrogen rearrangement to a saturated heteroatom with adjacent cleavage)"}, "confidence": 0.85, "curator_note": "Section 'Hydrogen rearrangement to a saturated heteroatom with adjacent cleavage', eq 4.37, p.76. The alcohol is n-ionized at oxygen: the odd electron and the charge are localized on O (drawn '+.OH'), so the precursor SMILES carries O+ with one radical electron (convention B). The six-membered transition state brings the delta C-H (map 3, the C2H5-bearing carbon) up to the oxygen radical. ARC COUNT: the book draws 3 arc(s) on the molecular ion and all three fishhooks are printed -- move <1> = the O odd electron (right-hand fishhook next to '+.OH', map 7) into the forming O7-H8 bond; move <2> = one electron of the breaking C3-H8 sigma bond (the large central arc that sweeps from the carbon toward the oxygen) into that same forming O-H bond; move <3> = the other C3-H8 electron (left-hand fishhook) onto carbon map 3, its new radical site. Net: H8 migrates C3 -> O7, giving a distonic ion with a carbon radical (map 3) and a -O+H2 oxonium (map 7), overall still C6H14O+. (mass unchanged). Instantiated for 1-hexanol (M = C6H14O, m/z 102), whose C2H5 terminus appears explicitly in the charge-migration branch (eq 4.38)."}, {"evidence_id": "evidence_step_rd", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement_charge_retention", "support_type": "textbook_proposed", "locator": {"page": 76, "equation": "4.37", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (charge retention, radical-site displacement 'rd')"}, "confidence": 0.8, "curator_note": "Charge-retention ('rd') branch of eq 4.37: the carbon radical (map 3) displaces water from the oxonium carbon (map 6) in a homolytic substitution (SHi), closing a cyclobutane ring (map3-map6 bond) and expelling the odd electron plus the charge together as HOH+. (m/z 18, drawn '< 3%'). The book draws the neutral hydrocarbon schematically as 'R--[square]' = R-cyclobutane; instantiated here as R = C2H5 -> ethylcyclobutane (C6H12, neutral, not detected). ARC COUNT: the book draws 2 arc(s) -- move <1> (fishhook off the radical dot on map 3) = the odd electron into the forming C3-C6 ring bond; move <2> (the large arc sweeping toward the O) = one electron of the breaking C6-O7 sigma bond into that same forming C-C bond. Move <3>, the other C6-O7 electron onto oxygen map 7 (the odd electron of the departing HOH+.), is an implicit homolysis hook required for electron balance (not drawn on the page -- the book simply writes HOH+. as a product). 'Charge retention' = the oxygen fragment keeps both the charge and the radical it carried at ionization."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_18", "species_id": "water_radical_cation", "step_id": "step_rd_displacement_charge_retention", "observed_mz": 18.0106, "relative_intensity": 0.03, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
